US08580841B2
Step D: Preparation of 4-Cyclopentyl-3-(trifluoromethyl)benzaldehyde.
In a 15 mL round-bottomed flask were placed 4-Bromo-1-cyclopentyl-2-(trifluoromethyl)benzene (0.186 g, 0.635 mmol) and anhydrous THF (1.86 mL) under argon atmosphere. The solution was stirred well and cooled to −78° C. (dry ice IPA bath). BuLi (2.5 M in hexanes, 0.281 mL, 0.703 mmol) was added in drops (slowly) and the reaction mixture was stirred at low temperature for 25 min. Anhydrous DMF (0.1 mL, 0.766 mmol) was added in drops at −78° C. (slowly). The mixture was stirred at −78° C. for 20 min then in room temperature for 30 min. The reaction was quenched with water, acidified with 2M HCl and extracted with EtOAc. The EtOAc layer was washed with water, dried over Na2SO4, and concentrated in vacuo to give the title compound as an oil (60 mg). LCMS m/z=243.3 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.55-1.7 (m, 4H), 1.79-1.94 (m, 2H), 1.95-2.09 (m, 2H), 3.29-3.37 (m, 1H), 7.86 (d, J=8 Hz, 1H), 8.12 (d, J=8 Hz, 1H), 8.16 (d, J=1.2 Hz, 1H), 10.46 (s, 1H).

reactant | 4-Bromo-1-cyclopentyl-2-(trifluoromethyl)benzene | 0.635 mmol, 0.186 g | BrC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F | C12H12BrF3
reactant | BuLi | 0.703 mmol, 2.5 M, 0.281 mL | [Li]CCCC
reactant | DMF | 0.766 mmol, 0.1 mL | CN(C)C=O | C3H7NO
solvent | THF | 1.86 mL | C1CCOC1 | C4H8O
product | 4-Cyclopentyl-3-(trifluoromethyl)benzaldehyde | 60 mg | C1(CCCC1)C1=C(C=C(C=O)C=C1)C(F)(F)F | C13H13F3O
